US05538988
A solution of (1R,2S)-N-methylephedrine (81.3 g, 0,454 mol) in 1.2 L of anhydrous diethyl ether was added to lithium aluminum hydride (1.0 M in diethyl ether, 416 mL, 0.416 mol) over 45 minutes. The mixture was heated under reflux for 1 hour and then allowed to cool to room temperature. A solution of 2-ethylaminopyridine (110.7 g, 0.907 mol) in 100 mL of anhydrous diethyl ether was added over 45 minutes. The mixture was heated under reflux for 1 hour and then cooled to -65° C. A solution of 5,7-difluoro-1,2,3,4-tetrahydronaphthalen-2-one (23.0 g, 0.107 mol) in 100 mL of diethyl ether was added dropwise such that the reaction temperature did not exceed -60° C. The mixture was stirred at -65° C. to -68° C. for 3 hours and then 100 mL of methanol was added such that the reaction temperature did not exceed -60° C. The mixture was stirred at -65° C. to -68° C. for 10 minutes, then allowed to warm to -20° C., and 3.0 L of 3N hydrochloric acid was added such that the reaction temperature did not exceed 35° C. The diethyl ether layer was separated, washed with 200 mL of saturated sodium chloride, and dried over magnesium sulfate. The mixture was filtered and the filtrate concentrated under reduced pressure. Crystallization from 20 mL of diethyl ether and 200 mL of hexane and drying in vacuo gave (R)-5,7-difluoro-1,2,3,4-tetrahydro-2-hydroxynaphthalene (10.87 g, 0.05 mol), m.p. 85° C. [α]D25 +36.03° (c=1.59, CHCl3)

reactant | lithium aluminum hydride | 0.416 mol, 1.0 M, 416 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2-ethylaminopyridine | 0.907 mol, 110.7 g | C(C)NC1=NC=CC=C1 | C7H10N2
reactant | 5,7-difluoro-1,2,3,4-tetrahydronaphthalen-2-one | 0.107 mol, 23.0 g | FC1=C2CCC(CC2=CC(=C1)F)=O | C10H8F2O
reactant | hydrochloric acid | 3N, 3.0 L | Cl | ClH
solvent | diethyl ether | 1.2 L | C(C)OCC | C4H10O
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 100 mL | CO | CH4O
product | (R)-5,7-difluoro-1,2,3,4-tetrahydro-2-hydroxynaphthalene | 0.05 mol, 10.87 g | FC1=C2CC[C@H](CC2=CC(=C1)F)O | C10H10F2O
